US07078417B2
2-Amino-4-(1,3-benzodioxol-5-yl)-6-(2-hydroxyethyl)sulfanyl-3,5-pyridinedicarbonitrile
75 mg (0.19 mmol) of 2-amino-4-(1,3-benzodioxol-5-yl)-6-sulfanyl-3,5-pyridinedicarbonitrile [prepared analogously to Dyachenko et al., Russian Journal of Chemistry 33 (7), 1014–1017 (1997); 34 (4), 557–563 (1998)] and 47 mg (0.38 mmol) of 2-bromoethanol and 63 mg (0.75 mmol) of sodium bicarbonate are stirred in 1 ml of DMF at room temperature overnight. Water is then added, and the precipitated product is filtered off with suction and dried under reduced pressure.

reactant | 2-amino-4-(1,3-benzodioxol-5-yl)-6-sulfanyl-3,5-pyridinedicarbonitrile | 0.19 mmol, 75 mg | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OCO2)C=C1)C#N)S | C14H8N4O2S
reactant | 2-bromoethanol | 0.38 mmol, 47 mg | BrCCO | C2H5BrO
reactant | sodium bicarbonate | 0.75 mmol, 63 mg | C([O-])(O)=O.[Na+]
reactant | Water | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-Amino-4-(1,3-benzodioxol-5-yl)-6-(2-hydroxyethyl)sulfanyl-3,5-pyridinedicarbonitrile | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OCO2)C=C1)C#N)SCCO | C16H12N4O3S
